US07968570B2
5-(5-Chloromethyl-[1,3,4]oxadiazol-2-yl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid hydrazide (200.0 mg, 0.527 mmol) was stirred with trimethoxy chloroethane (2.0 mL) at 120° C. for two hours. The reaction was concentrated and column chromatography (50% EtOAc/Hexanes) provided the title compound as a yellow solid (28.0 mg). 1H NMR (300 MHz, CDCl3): δ 7.94 (s, 2H), 7.38 (d, 2H), 7.21 (d, 2H), 4.81 (s, 4H), 4.34 (s, 2H), 2.85 (s, 3H).

reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid hydrazide | 0.527 mmol, 200.0 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C(=O)NN | C18H16F3N3O3
reactant | trimethoxy chloroethane | 2.0 mL | COC(CCl)(OC)OC | C5H11ClO3
product | 5-(5-Chloromethyl-[1,3,4]oxadiazol-2-yl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 28.0 mg | ClCC1=NN=C(O1)C=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C20H15ClF3N3O3
